US04123458
E. PREPARATION OF SODIUM ETHYL MALEATE
Fifty-seven grams (0.57 moles) maleic anhydride is dissolved in 500 mls ethanol. With the aid of a pH meter the pH is adjusted to 8.5-8.6 with sodium carbonate. The solution is evaporated on the roto evaporator and dried in a vacuum oven. Ninety-four grams (0.57 moles) of product having a purity of 99.4% (NMR analysis) is obtained.

reactant | maleic anhydride | 0.57 moles, Fifty-seven grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 500 mls | C(C)O | C2H6O
product | SODIUM ETHYL MALEATE | C(\C=C/C(=O)[O-])(=O)OCC.[Na+] | InChI=1S/C6H8O4.Na/c1-2-10-6(9)4-3-5(7)8;/h3-4H,2H2,1H3,(H,7,8);/q;+1/p-1/b4-3-;
